US04739049
2-chloro-7H-chromeno[3,4-c]quinolin-6(5H)-one
Sodium hydride suspension (50% in mineral oil), 10 g, was washed with hexane and added to a solution of 20 g (0.066 mol) of the 6-chloro-4-(2-fluorophenyl)-3-hydroxymethylquinolin-2(1H)one in 350 ml of dimethylformamide. This mixture was stirred and refluxed under an atmosphere of nitrogen for 5 min. The cool reaction mixture was diluted with water and the product was precipitated by acidifying with 1N hydrochloric acid. It was collected, washed with water and recrystallized from dimethylformamide to yield final product with mp>350°.

reactant | 6-chloro-4-(2-fluorophenyl)-3-hydroxymethylquinolin-2(1H)one | 0.066 mol, 20 g | ClC=1C=C2C(=C(C(NC2=CC1)=O)CO)C1=C(C=CC=C1)F | C16H11ClFNO2
reactant | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-chloro-7H-chromeno[3,4-c]quinolin-6(5H)-one | ClC=1C=C2C(=CC1)OC(C1CN=C3C=CC=CC3=C12)=O | C16H10ClNO2
